US05015640
2.66 g of ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate are placed in 15 ml of methylene chloride with 1 g of triethylamine. 0.95 g of methyl chloroformate is added dropwise while cooling with an ice bath. The mixture is then left to stir at room temperature for 2 hours. The reaction mixture is poured on to ice-water and extracted twice with methylene chloride. The extracts are washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The oily residue is chromatographed on silica gel with n-hexane-ethyl acetate (1:1) as the eluent, and there is obtained ethyl N-methoxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as an oil, mass spectrum m/e: M+ 324 (6), 295 (20), 263 (70), 194 (100), 178 (35), 165 (49).

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | 2.66 g | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.95 g | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | ethyl N-methoxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | COC(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C19H20N2O3
